US07947674B2
Step a) Synthesis of 4-(4-nitrophenoxy)benzaldehyde
To a solution of 4-hydroxybenzaldehyde (366 mg, 3 mmol) in anhydrous DMF (7 ml), under nitrogen atmosphere, K2CO3 (829 mg, 6 mmol), and, after 10 minutes, 4-bromonitrobenzene (726 mg, 3.6 mmol) were added. The mixture was heated to reflux for 3 hours, then water was added and the product was extracted with CH2Cl2. The organic layers were washed with water and with NaCl saturated solution and dried with Na2SO4. After evaporation of the solvent the crude product was purified by chromatography on silica gel (Petroleum ether/Ethyl acetate 5/1); 605 mg (yield 82%) of pure title product were obtained.

reactant | 4-hydroxybenzaldehyde | 3 mmol, 366 mg | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | K2CO3 | 6 mmol, 829 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-bromonitrobenzene | 3.6 mmol, 726 mg | BrC1=CC=C(C=C1)[N+](=O)[O-] | C6H4BrNO2
reactant | water | O | H2O
solvent | DMF | 7 ml | CN(C)C=O | C3H7NO
product | 4-(4-nitrophenoxy)benzaldehyde | 605 mg, yield 82% | [N+](=O)([O-])C1=CC=C(OC2=CC=C(C=O)C=C2)C=C1 | C13H9NO4
